US03987199
4-Amino-3,5-dibromo-N-isopropylbenzenesulfonamide
4.0 G. of 4-amino-3,5-dibromobenzenesulfonyl chloride is added to a solution of 34 ml. of isopropylamine in 30 ml. of water. The resultant solution is stirred overnight at room temperature and poured onto 250 ml. of an ice/water mixture. The precipitate is filtered, washed with water and dried. The dried filtrate is recrystallized from isopropanol affording pure 4-amino-3,5-dibromo-N-isopropylbenzenesulfonamide, m.p. 181° to 183° C.

reactant | 4-amino-3,5-dibromobenzenesulfonyl chloride | NC1=C(C=C(C=C1Br)S(=O)(=O)Cl)Br | C6H4Br2ClNO2S
reactant | isopropylamine | C(C)(C)N | C3H9N
solvent | water | O | H2O
product | 4-Amino-3,5-dibromo-N-isopropylbenzenesulfonamide | NC1=C(C=C(C=C1Br)S(=O)(=O)NC(C)C)Br | C9H12Br2N2O2S
